Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10](=[O:11])[H:12]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10](=[O:11])[H:12],1.0598462889
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],2.10197805328
[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.89224939841
[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8]\[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],1.39075870518
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][O:2][C:3]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:4],2.09588872963
[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.3519440184399998
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1],4.24461102305
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3],4.17435061245
[H:1][O:2][C:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9]>>[C:6]=[C:7]([H:8])[H:9].[H:1][O:2][C:3]#[C:4][H:5],2.84992502508
[H:1][C:2][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.12633230681
[H:1][C:2]([H:3])=[C:4]([O:5][O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])=[C:4]([O:5][O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13],4.74909652988
[H:1][C:2]1=[C:3][C:4]([H:5])=[C:6]([H:7])[O:8][C:9]1([H:10])[H:11]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11],0.93721902967
[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[O:7][H:8].[C:9]([H:10])([H:11])[H:12],2.90388973358
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[C:5](=[C:6][C:7]([H:8])([H:9])[H:10])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])[C:5](=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.34893950919
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:5]([H:6])([H:7])[H:8].[H:1][C:2]([H:3])=[C:4][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],4.45702951146
[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-7.230331745650001
[H:1][O:2][C@:3]([H:4])(/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3](=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4],1.66907924603
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][C:12]([H:13])([H:14])[H:15],5.468681581599999
[C:1]#[C:2][C:3]#[C:4][O:5][H:6]>>[C:1].[C:2]#[C:3][C:4][O:5][H:6],6.649829476719999
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:9]([H:10])([H:11])[H:12].[H:8],4.59121967339
[C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8].[O:1]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8],-7.936601588689999
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7].[O:8][H:9],6.293885143250001
[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-3.23171299541
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1],1.69195435165
[H:1][O:2][C:3][O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])[H:8].[H:1][O:2][C:3][O:4][C:5][C:9]([H:10])([H:11])[H:12],7.835609817889999
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]([H:3])=[C:4]([H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15],4.5797411209800005
[C:3]([H:4])#[C:5][H:6].[H:1][C:2]([H:7])=[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],1.21468419225
[H:1][C:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8]>>[C:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8].[H:1],3.66381175177
